US07119088B2
Preparation 7: (2-Amino-5-methoxy-phenyl)-methanol
2-Amino-5-methoxy-benzoic acid (2.0 g, 12 mmol) in tetrahydrofuran (20 ml) was added dropwise to an ice cooled 1 molar solution of lithium aluminium hydride (14.4 ml) in tetrahydrofuran and stirred at 5°0 C. for 2 hours. Water (0.5 ml) was added dropwise, followed by 2 molar aqueous sodium hydroxide solution (0.5 ml). The resulting emulsion was dried over magnesium sulphate, then filtered and evaporated under reduced pressure to give the title compound as a yellow solid (766 mg).

reactant | 2-Amino-5-methoxy-benzoic acid | 12 mmol, 2.0 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | lithium aluminium hydride | 14.4 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.5 ml | O | H2O
reactant | sodium hydroxide | 2 molar, 0.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2-Amino-5-methoxy-phenyl)-methanol | 766 mg | NC1=C(C=C(C=C1)OC)CO | C8H11NO2
